US07935830B2
Step B. 5-Hydroxy-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole
N-Ethylcarbamate-5-methoxy-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole (12 mg, 0.045 mmol) was dissolved in concentrated HCl (2 mL) and stirred for 20 hours at 120° C. The reaction solution was cooled to room temperature, diluted with H2O (2 mL), and washed with EtOAc (5 mL). The aqueous solution was concentrated on a speed vac to afford the title compound as the hydrochloride salt. MS calculated for C12H15NO+H: 190, observed: 190.

reactant | N-Ethylcarbamate 5-methoxy-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole | 0.045 mmol, 12 mg | C(C)NC([O-])=O.COC=1C=CC=2C(C3C(CNC3)C2C1)C
solvent | HCl | 2 mL | Cl | ClH
solvent | H2O | 2 mL | O | H2O
product | 5-Hydroxy-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole | OC=1C=CC=2C(C3C(CNC3)C2C1)C | C12H15NO
